US05169769
Step C: Preparation of 3-[(4,7-dimethylbenzoxazol-2-yl)methylamino]-5-ethyl-6-methyl-2(1H)-pyridinone
A mixture of 3-amino-5-ethyl-6-methyl-2-(1H)-pyridinone (0.23 g, 1.5 mmol),2-chloromethyl-4,7-dimethylbenzoxazole (0.29 g, 1.5 mmol, diisopropylethylamine (0.39 g, 3 mmol) in acetonitrile (50 mL) was refluxed under an atomosphere of nitrogen for 12 hours. The resultant mixture was concentrated under reduced pressure (15 torr). The residue wasthen subjected to column chromatography on silica gel (100 g, elution with 4% methanol in chloroform). Collection and concentration of appropriate fractions provided the title compound.

reactant | 3-amino-5-ethyl-6-methyl-2-(1H)-pyridinone | 1.5 mmol, 0.23 g | NC=1C(NC(=C(C1)CC)C)=O | C8H12N2O
reactant | 2-chloromethyl-4,7-dimethylbenzoxazole | ClCC=1OC2=C(N1)C(=CC=C2C)C | C10H10ClNO
reactant | diisopropylethylamine | 3 mmol, 0.39 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 3-[(4,7-dimethylbenzoxazol-2-yl)methylamino]-5-ethyl-6-methyl-2(1H)-pyridinone | CC1=CC=C(C2=C1N=C(O2)CNC=2C(NC(=C(C2)CC)C)=O)C | C18H21N3O2
